US04151280
14.1 g of methyl iodide and 6.15 g of potassium hydroxide were added to a suspension of 11.8 g of benzimidazole in 50 ml of ethanol and 30 ml of water and the mixture was refluxed for 6 hours and was then cooled. The mixture was extracted three times with chloroform and the combined chloroform extracts were dried and filtered. The filtrate was evaporated to dryness and the oily residue was chromatographed over neutral alumina. Elution with chloroform yielded 1-methyl-benzimidazole as a crude oil which was used as is for the next step.

reactant | methyl iodide | 14.1 g | CI | CH3I
reactant | potassium hydroxide | 6.15 g | [OH-].[K+]
reactant | benzimidazole | 11.8 g | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 1-methyl-benzimidazole | CN1C=NC2=C1C=CC=C2 | C8H8N2
